US07049312B1
Synthesis of 2-[(4-Dimethylaminophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one
Sodium methoxide (0.65 g, 0.012 mol) was added in one portion to a mixture of 2H-1,4-benzoxazin-3(4H)-one (1.49 g, 0.01 mol) and 4-dimethylamino benzaldehyde (2.38 g, 0.016 mol) in dry DMF (10 ml). The reaction mixture was refluxed overnight, then cooled to room temperature and poured into crushed ice. The precipitated solid was collected by filtration, washed with water and dried. The crude product was purified by recrystallization from ethanol.

reactant | Sodium methoxide | 0.012 mol, 0.65 g | C[O-].[Na+]
reactant | 2H-1,4-benzoxazin-3(4H)-one | 0.01 mol, 1.49 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | 4-dimethylamino benzaldehyde | 0.016 mol, 2.38 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-[(4-Dimethylaminophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | CN(C1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2)C | C17H16N2O2
